US07214673B2
2-Isopropyl-5-(2-nitro-phenylamino)-thiazole-4-carboxylic acid ethyl ester
Combine a solution of 5-amino-2-isopropyl-thiazole-4-carboxylic acid ethyl ester (8.71 g, 40.6 mmol) and 2-fluoronitrobenzene (4.28 mL, 40.6 mmol) in DMSO (105 mL) and stir at rt under N2 as LiOH (1.95 g, 81.4 mmol, 2.0 eq.) or LiOH monohydrate (2 eq) is added in one portion. The reaction turns dark. Heat the reaction mixture to 55° C. for 3 h until complete by HPLC (Zorbax SB C18 25 cm, 60:40/ACN:0.1% TFA in water, 233 nm, 1.0 mL/min). Cool to rt overnight, Cool the reaction to 0–5° C. with stirring as deionized water (315 mL) is added at such a rate to maintain the temperature below 20° C. Precipitate the product and the reaction color changes from brown to rust-orange color. Stir the slurry for 3–4 h at rt, filter by vacuum and rinse with minimal 3:1/H2O: DMSO, dry in a vacuum oven at 60° C. to afford 12.4 g (91%) of the title compound as an orange solid: 1H NMR (300 MHz, DMSO-d6) δ 11.52 (bs, 1H), 8.23 (d, 1H, J=8.05 Hz), 7.80 (m, 2H), 7.21 (m, 1H), 4.36 (q, 2H, J=7.32 Hz, 6.95 Hz), 3.23 (dq, 1H, J=6.95 Hz), 1.34 (m, 9H). 13C NMR (75 MHz, DMSO-d6) δ 163.22, 161.85, 149.08, 136.99, 136.37, 136.10, 126.53, 126.48, 121.94, 117.05, 60.45, 32.47, 22.34(2), 14.24. IR (CHCl3) 2976, 2932, 2867, 1709, 1677, 1611, 1580, 1550, 1512, 1415, 1340 cm−1. HRMS (ES) M/z calculated for C15H17N3O4S 336.1018, found 336.1009.

reactant | 5-amino-2-isopropyl-thiazole-4-carboxylic acid ethyl ester | 40.6 mmol, 8.71 g | C(C)OC(=O)C=1N=C(SC1N)C(C)C | C9H14N2O2S
reactant | 2-fluoronitrobenzene | 40.6 mmol, 4.28 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | LiOH | 81.4 mmol, 1.95 g, 2.0 eq. | [Li+].[OH-]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 105 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 315 mL | O | H2O
solvent | ACN | C(C)#N | C2H3N
product | 2-Isopropyl-5-(2-nitro-phenylamino)-thiazole-4-carboxylic acid ethyl ester | 12.4 g, 91% | C(C)OC(=O)C=1N=C(SC1NC1=C(C=CC=C1)[N+](=O)[O-])C(C)C | C15H17N3O4S
